US07615555B2
Preparation of 3-piperidin-4-yl-3H-imidazo[4,5-c]pyridine
To a mixture of 3-fluoro-4-nitropyridine-N-oxide (3.46 g) and tert-butyl 4-aminopiperidine-1-carboxylate (2.745 g) in acetonitrile (150 ml) was added anhydrous potassium carbonate (2.74 g) and the resulting mixture was refluxed for 8 hours. The mixture was filtered and washed well with dichloromethane. The organics were concentrated to dryness and the residue was purified by column chromatography eluting with a mixture of ethyl acetate and dichloromethane (1:1) to give the titled compound as a yellow solid. Yield 3.25 g. NMR (d6 DMSO) 1.4 (s, 9H), 1.5 (M, 2H), 1.9 (m, 2H), 2.95 (m, 2H), 3.9 (m, 3H), 7.5 (dd, 1H), 7.85 (d, 1H), 8.05 (d, 1H) 8.4 (d, 1H).

reactant | 3-fluoro-4-nitropyridine-N-oxide | 3.46 g | FC=1C=[N+](C=CC1[N+](=O)[O-])[O-] | C5H3FN2O3
reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 2.745 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | potassium carbonate | 2.74 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 3-piperidin-4-yl-3H-imidazo[4,5-c]pyridine | N1CCC(CC1)N1C=NC2=C1C=NC=C2 | C11H14N4
